* File: /home/eng/s/sxv240035/cad/gf65/tutorial/INVERTER/HSPICE/inverter.pex.sp.pex
* Created: Thu Dec  5 19:32:11 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERTER%GND! 1 6 12 18
c23 6 0 6.31571e-20
r24 6 18 10
r25 4 12 0.0199415
r26 4 6 0.988031
r27 1 12 30
.ends

.subckt PM_INVERTER%OUT 3 6 8 14 17 20 22 23
r38 17 20 1.7
r39 15 20 0.0515171
r40 14 20 0.110105
r41 11 22 30
r42 8 11 0.388606
r43 8 22 10
r44 6 15 0.0803212
r45 6 8 0.563479
r46 3 23 10
r47 1 14 0.0803212
r48 1 3 0.682003
.ends

.subckt PM_INVERTER%VDD! 1 6 15 20
c23 6 0 6.31571e-20
r24 10 20 30
r25 6 10 0.388606
r26 6 20 10
r27 4 15 0.0185406
r28 4 10 1.40675
r29 1 15 30
.ends

.subckt PM_INVERTER%IN 4 6 10 12 14 17 23
r44 20 23 4.21922
r45 17 20 25
r46 14 17 1.7
r47 6 12 36.8926
r48 5 23 3.83544
r49 5 6 35.2529
r50 4 23 3.83544
r51 3 10 26.6446
r52 3 4 53.8017
.ends

